### ISSUE TITLE
Can't use `omega` as a `simp` discharger

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#3805]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Steps to Reproduce

```lean
--import Mathlib.Tactic.Linarith

variable {x y: Nat} {p: Nat → Nat → Prop}
theorem Foo (h: ¬ y < x): p x y := sorry

set_option trace.Meta.Tactic.simp.discharge true
  example (h:   x < y): p x y := by simp (discharger:= omega     ) only [Foo] -- [Meta.Tactic.simp.discharge] @Foo discharge ❌ ¬y < x
  example (h:  ¬y < x): p x y := by simp (discharger:= assumption) only [Foo] -- [Meta.Tactic.simp.discharge] @Foo discharge ✅ ¬y < x
--example (h:   x < y): p x y := by simp (discharger:= linarith  ) only [Foo] -- also works
```

**Expected behavior:** `omega` can be used as discharger

**Actual behavior:** `omega` fails to discharge `¬y < x` target

### Versions

`4.7.0-rc2`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by semorrison** [comment]
It appears that `omega` is not even being called here: not even the first `analyzing n hypotheses:` trace message from `omega` gets printed:

```
import Mathlib.Tactic.Linarith

variable {x y: Nat} {p: Nat → Nat → Prop}
theorem Foo (h: ¬ y < x): p x y := sorry

set_option trace.omega true 
set_option trace.linarith true
set_option trace.Meta.Tactic.simp.discharge true

example (h:   x < y): p x y := by apply Foo; omega 
example (h:   x < y): p x y := by simp (discharger:= omega     ) only [Foo] -- [Meta.Tactic.simp.discharge] @Foo discharge ❌ ¬y < x
example (h:  ¬y < x): p x y := by simp (discharger:= assumption) only [Foo] -- [Meta.Tactic.simp.discharge] @Foo discharge ✅ ¬y < x
example (h:   x < y): p x y := by simp (discharger:= linarith  ) only [Foo] -- also works
```

**Comment by fpfu** [comment]
I assume that the log from the user's discharger is simply discarded

**Comment by semorrison** [comment]
Possibly, I haven't had a chance to look at the code yet. Notice that the log from `linarith` is not discarded, however. It's *possible* that logs only from failed dischargers are discarded, but it seems unlikely.
